US06706731B2
A solution of 54.9 g (345 mmol) of sulfur trioxide-pyridine complex in 150 ml of DMSO is added dropwise at RT to 35 g (115 mmol) of rac. 2-iodo-benzoic acid-(1-hydroxy-prop-2-yl-amide) in 50 ml of DMSO and 48 ml (345 mmol) of triethylamine. After 10 min, the mixture is poured onto 0.4 l of EtOAc, 0.2 l of sat. NaHCO3 solution and 0.2 l of water, the aqueous phase is separated and extracted 4 more times with EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and concentrated by evaporation to form rac. 2-iodo-benzoic acid-(1-oxo-prop-2-yl-amide).

reactant | rac. 2-iodo-benzoic acid-(1-hydroxy-prop-2-yl-amide) | 115 mmol | OCC(C)NC(C1=C(C=CC=C1)I)=O | C10H12INO2
reactant | triethylamine | 345 mmol, 48 ml | C(C)N(CC)CC | C6H15N
reactant | EtOAc | 0.4 l | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | 0.2 l | C(=O)(O)[O-].[Na+]
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | water | 0.2 l | O | H2O
product | rac. 2-iodo-benzoic acid-(1-oxo-prop-2-yl-amide) | O=CC(C)NC(C1=C(C=CC=C1)I)=O | C10H10INO2
